US04647694
DL-phenyl alanine (V)
95.1 g (0.5 mole) of 5-benzyl-hydantoine are dissolved in a solution of 87 g of sodium hydroxide and 400 ml of water, whereupon 300 ml of cellosolve are added. The reaction mixture is heated to boiling for 48 hours, the water and the cellosolve are distilled off in vacuo (30 Hgmm, 80° C.), the solid residue is dissolved in a small amount of water and acidified with concentrated hydrochloric acid (pH 2). The solution is treated with activated charcoal and the pH is adjusted to 6 with a concentrated ammonium hydroxide solution. The mixture is allowed to stand for some hours at 5° C. The precipitated product is filtered off, washed with cold water and cold ethanol. Thus 63.4 g of the desired airdry compound are obtained, yield 77%, mp.: 245°-255° C. Purity: 97.9% according to HPLC.

reactant | 5-benzyl-hydantoine | 0.5 mole, 95.1 g | C(C1=CC=CC=C1)C1C(NC(N1)=O)=O | C10H10N2O2
reactant | sodium hydroxide | 87 g | [OH-].[Na+]
solvent | water | 400 ml | O | H2O
solvent | cellosolve | 300 ml | CCOCCO | C4H10O2
product | DL-phenyl alanine | yield 77% | NC(CC1=CC=CC=C1)C(=O)O | C9H11NO2
